US08049006B2
tert-butyl (2R)-2-{[(4-chloro-2-nitrophenyl)sulfonyl]amino}butanoate (Compound S172)
Instead of the starting material compound of Reference Example 166, that is, L-alanine tert-butyl ester hydrochloride, D-2-amino-n-butyric acid tert-butyl ester hydrochloride was used, further, instead of 4-chlorobenzenesulfonyl chloride, 4-chloro-2-nitrobenzenesulfonyl chloride was used for the similar procedure as with Reference Example 167 to obtain the title compound.

reactant | L-alanine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 4-chloro-2-nitrobenzenesulfonyl chloride | ClC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
product | tert-butyl (2R)-2-{[(4-chloro-2-nitrophenyl)sulfonyl]amino}butanoate | ClC1=CC(=C(C=C1)S(=O)(=O)N[C@@H](C(=O)OC(C)(C)C)CC)[N+](=O)[O-] | C14H19ClN2O6S
